US08222248B2
A mixture of 3-amino-N-(3,4-dimethylphenyl)-4-hydroxy-benzamide (70 mg) and 2-(4-formyl-3,5-dimethylphenoxy)-N,N-dimethylacetamide (64 mg) in MeOH (5 mL) was stirred at 45° C. for 24 h. The MeOH was removed under reduced pressure and the residue was dissolved in CH2Cl2 (5 mL). To this solution was added DDQ (68 mg) and the dark mixture was stirred at room temperature for 6 h. The majority of the solvent was removed under reduced pressure and EtOAc was added. The solution was washed with NaHCO3 solution and water then was dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using EtOAc/CH2Cl2 (1:2) as eluent to give 2-(4-dimethylcarbamoylmethoxy-2,6-dimethylphenyl)-benzooxazole-5-carboxylic acid (3,4-dimethylphenyl)-amide as a brownish solid, mp=207-209° C.; MS (m/z) 470 (M−1); 1H NMR (DMSO-d6, 400 MHz) δ 10.18 (s, 1H), 8.46 (s, 1H), 8.04 (d, J=10.36 Hz, 1H), 7.90 (d, J=8.34 Hz, 1H), 7.60 (s, 1H), 7.53 (d, J=8.08 Hz, 1H), 7.11 (d, J=8.34 Hz, 1H), 6.83 (s, 2H), 4.89 (s, 2H), 3.02 (s, 3H), 2.87 (s, 3H), 2.27 (s, 6H), 2.24 (s, 3H), 2.21 (s, 3H).

reactant | 3-amino-N-(3,4-dimethylphenyl)-4-hydroxy-benzamide | 70 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1O | C15H16N2O2
reactant | 2-(4-formyl-3,5-dimethylphenoxy)-N,N-dimethylacetamide | 64 mg | C(=O)C1=C(C=C(OCC(=O)N(C)C)C=C1C)C | C13H17NO3
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(4-dimethylcarbamoylmethoxy-2,6-dimethylphenyl)-benzooxazole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C=1C=CC2=C(N=C(O2)C2=C(C=C(C=C2C)OCC(N(C)C)=O)C)C1 | C28H29N3O4
